US05026859
PREPARATION OF DIMETHYL 5-FORMYLPYRIDINE-2,3-DICARBOXYLATE
To a solution of dimethyl 5-dibromomethylpyridine-2,3-dicarboxylate (8.32 g, 0.0227 mol) in dioxane (60 mL) and water (20 mL) is added silver nitrate (7.85 g, 0.0476 mol). The resulting slurry is heated at reflux for 3 hours. The reaction mixture is cooled to room temperature, filtered through a pad of diatomaceous earth and the diatomaceous earth is rinsed with tetrahydrofuran. The filtrate is concentrated in vacuo to remove the dioxane and tetrahydrofuran. The resultant aqueous solution is made basic by the addition to saturated aqueous sodium bicarbonate (100 mL) and extracted with methylene dichloride. The combined extracts are dried over anhydrous magnesium sulfate and concentrated in vacuo to give a residue. Chromatography using silica gel and 33% ethyl acetate in hexanes as eluant yields the title compound as a white solid, (4.31 g, 85%) mp 75° C.-77° C., identified by IR and NMR spectral analyses.

reactant | dimethyl 5-dibromomethylpyridine-2,3-dicarboxylate | 0.0227 mol, 8.32 g | BrC(C=1C=C(C(=NC1)C(=O)OC)C(=O)OC)Br | C10H9Br2NO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
catalyst | silver nitrate | 0.0476 mol, 7.85 g | [N+](=O)([O-])[O-].[Ag+]
product | DIMETHYL 5-FORMYLPYRIDINE-2,3-DICARBOXYLATE | 4.31 g, 85% | C(=O)C=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C10H9NO5
